US06458802B1
2-({4-[(7-Ethyl-1H-indol-3-yl)methyl]piperidin-1-yl}methyl)-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinoline
(2R)-8-Methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-ylmethyl 4-methylbenzenesulfonate (0.60 g, 1.6 mmole) and 7-ethyl-3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole (1.0 g, 4.4 mmole) were combined in 10 mL of DMSO. The mixture was heated at 70-80° C. under nitrogen for 6 hours. After cooling to room temperature, the mixture was partitioned between 400 mL each of ethyl acetate and saturated aqueous sodium bicarbonate. The organic phase was removed, washed with 400 mL portions of water and saturated brine, dried over sodium sulfate, filtered and concentrated to dryness under vacuum. The residue was column chromatographed on silica gel using 0-2% methanol/chloroform. The product fractions were concentrated in vacuum and the residue triturated with ether to give 0.16 g of the (S)-enantiomer of the title compound as a yellow solid, m.p. 85-90° C.

reactant | (2R)-8-Methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-ylmethyl 4-methylbenzenesulfonate | 1.6 mmole, 0.60 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC=2C(=C3C=CC(=NC3=CC2)C)O1 | C20H19NO5S
reactant | 7-ethyl-3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 4.4 mmole, 1.0 g | C(C)C=1C=CC=C2C(=CNC12)C=1CCNCC1 | C15H18N2
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 2-({4-[(7-Ethyl-1H-indol-3-yl)methyl]piperidin-1-yl}methyl)-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinoline | C(C)C=1C=CC=C2C(=CNC12)CC1CCN(CC1)CC1COC=2C(=C3C=CC(=NC3=CC2)C)O1 | C29H33N3O2
